US04551460
Argon was passed through a solution of 45 ml of 3-bromopyridine and 49.61 g of 5-hexynenitrile in 500 ml of dichloromethane and 150 ml of dry triethylamine for 15 minutes and 3.0 g of bis(triphenylphosphine)palladium dichloride and 0.45 g of cuprous iodide were added. The reaction flask was evacuated and refilled with argon and was heated to reflux for 12 hours. The resulting mixture was diluted with 1 L of dichloromethane and washed with 2×300 ml of water, 1×300 ml brine, dried over potassium carbonate and concentrated. The residue was distilled to afford 62.82 g (79%) of 6-(3-pyridinyl)-5-hexynenitrile as a yellow oil, bp 140°-170° C./0.2 mm., suitable for use in the next step. A portion was purified by chromatography over silica gel eluting with 1:1 ethyl acetate-hexane containing 1% triethylamine and was redistilled to give an analytical sample of 6-(3-pyridinyl)-5-hexynenitrile.

reactant | 3-bromopyridine | 45 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 5-hexynenitrile | 49.61 g | C(CCCC#C)#N | C6H7N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | triethylamine | 150 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium dichloride | 3.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(3-pyridinyl)-5-hexynenitrile | 62.82 g, 79% | N1=CC(=CC=C1)C#CCCCC#N | C11H10N2
